US05043447
1-Diphenylmethyl-4-[(2-(4-methylphenyl)-5-methyl-1H-imidazol-4-yl)methyl]piperazine and Derivatives Thereof
50 Grams (0.2 mol) of 2-(4-methylphenyl)-4-chloromethyl-5-methyl-1H-imidazole hydrochloride dissolved in 200 ml of a mixture of ethanol:water 6:4 were added dropwise to a refluxing solution of 55 grams (0.2 mol) of N-(diphenylmethyl)piperazine and 24 grams (0.6 mol) sodium hydroxide in 200 ml of a mixture of ethanol:water 6:4. After 2 to 3 hours 1-diphenylmethyl-4-[(2-(4-methylphenyl)-5-methyl-1H-imidazol-4-yl)methyl]piperazine precipitated from the reaction mixture. After having left the crystals standing at room temperature, they were removed by filtration and recrystallized from methanol to give the free base which melted at 220°-222° C.

reactant | 2-(4-methylphenyl)-4-chloromethyl-5-methyl-1H-imidazole hydrochloride | 0.2 mol | Cl.CC1=CC=C(C=C1)C=1NC(=C(N1)CCl)C
reactant | N-(diphenylmethyl)piperazine | 0.2 mol, 55 grams | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium hydroxide | 0.6 mol, 24 grams | [OH-].[Na+]
solvent | ethanol water | C(C)O.O
product | 1-Diphenylmethyl-4-[(2-(4-methylphenyl)-5-methyl-1H-imidazol-4-yl)methyl]piperazine | C1(=CC=CC=C1)C(N1CCN(CC1)CC=1N=C(NC1C)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C29H32N4
